US07816119B2
To a solution of (R)-3-acetyloxy-4-tosyloxybutanenitrile (4.07 g, 13.70 mmol) in ethanol (40 mL) was added excess aq., trimethyl amine, refluxed overnight and the solvents in the reaction mixture were evaporated. To the resulting residue was added cone. HCl and heated to 80° C. for 6 h after evaporation of the solvent the residue containing crude (R)-carnitine was purified over an on exchange column, chromatography (Amberlite IR-120 W). The column was first eluted with water until the fractions were neutral and later with 10% NH4OH. Evaporation of the basic fractions gave a thick oil, which was again acidified with cone. HCl. Evaporation of the solvent afforded carnitine as hydrochloride salt. Trituration with isopropanol afforded colourless solid of (R)-carnitine hydrochloride, m.p. 44-146° C.; [α]30D=−22.4 (c 1.5, H2O); 1HNMR (200, D2O) δ 2.60-2.70 (m, 2H), 3.24 (s, 9H); 3.48-3.55 (m, 2H); 4.60-4.75 (m, 1H); 13CNMR (75 MHz, D2O) [[n]] 39.9, 54.2, 62.8, 69.7, 173.8; Mass (FAB) 162 (M++1).

reactant | (R)-3-acetyloxy-4-tosyloxybutanenitrile | 13.70 mmol, 4.07 g | C(C)(=O)O[C@H](CC#N)COS(=O)(=O)C1=CC=C(C)C=C1 | C13H15NO5S
reactant | trimethyl amine | CN(C)C | C3H9N
reactant | HCl | Cl | ClH
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | carnitine | OC(C[N+](C)(C)C)CC([O-])=O | C7H15NO3
